US05616705
20.0 g (142 mM) of benzoyl chloride and then additionally 14.4 g (142 mM) of triethylamine were added dropwise with vigorous stirring at room temperature to a solution of 11.5 g (142 mM) of chloroethanol in 200 ml of THF (exothermic reaction). After stirring for 1 h, the mixture was concentrated on a rotary evaporator, and the residue was partitioned between methylene chloride and water and acidified with 10% strength hydrochloric acid. The aqueous phase was reextracted twice with methylene chloride and the organic phase was then concentrated after drying with sodium sulfate. 26.0 g (99%) of 2-chloroethyl benzoate were isolated.

reactant | benzoyl chloride | 142 mM, 20.0 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 142 mM, 14.4 g | C(C)N(CC)CC | C6H15N
reactant | chloroethanol | 142 mM, 11.5 g | ClC(C)O | C2H5ClO
reactant | THF | 200 ml | C1CCOC1 | C4H8O
product | 2-chloroethyl benzoate | 26.0 g, 99% | C(C1=CC=CC=C1)(=O)OCCCl | C9H9ClO2
